* C:\Users\dcostine\Dropbox\UTK\Research\AURA\Ideas\LTparseFormat\Buck.asc
M1 N001 NC_01 N002 N002 BSC900N20NS3
M2 N002 NC_02 0 0 NMOS ron = 1m Coss = {Coss}
V1 N005 0 48
Rg N005 N001 1m
L1 N002 N003 {Lf}
C1 N003 0 Cout
R1 N003 0 Rout
.model NMOS NMOS
.model PMOS PMOS
.lib F:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Lf = 1u
.param Coss = 1n
.param Cout = 1e-3
.param Rout = 100
.param Vf = 1
.param ts = [1u 50n 1u 50n]
.param swvec = [1 0 ; 0 0; 0 1; 0 0 ]
.backanno
.end
